*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:03:16 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AND4X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AND4X4 Y B C D A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 3.75969e-16
*|P (Y X 0 1.9000 0.6650)
*|I (Mmn4@1:d Mmn4@1 d X 0 1.2350 0.4400)
*|I (Mmp4@1:d Mmp4@1 d X 0 1.3200 1.2850)
*|S (Y:1 1.7750 0.6650)
C1 Mmp4@1:d VSS 1.99148e-16
C2 Mmn4@1:d VSS 1.19901e-16
C3 Y:1 VSS 2.9106e-17
C4 Y VSS 2.78142e-17
Rk1 Y:1 Y 0.046454 $W=0.13
Rk2 Y:1 Mmn4@1:d 0.172089 $W=0.1
Rk3 Mmp4@1:d Y:1 0.325220 $W=0.1
*
*|NET B 3.12268e-16
*|P (B X 0 0.7000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 0.7625 0.4400)
*|I (Mmp1:g Mmp1 g X 0 0.7625 1.2850)
*|S (B:2 0.7625 0.7100)
*|S (B:3 0.7100 0.7100)
C5 Mmp1:g VSS 6.19541e-17
C6 Mmn1:g VSS 4.38203e-17
C7 B:3 VSS 1.42425e-16
C8 B VSS 6.4069e-17
Rl4 B:2 B:3 45.605148 $W=0.114
Rl5 B:2 Mmn1:g 48.879597 $W=0.039
Rl6 Mmp1:g B:2 141.187302 $W=0.039
Rk7 B B:3 0.027004 $W=0.1
*
*|NET C 3.0311e-16
*|P (C X 0 0.5000 0.6650)
*|I (Mmn2:g Mmn2 g X 0 0.5575 0.4400)
*|I (Mmp2:g Mmp2 g X 0 0.5575 1.2850)
*|S (C:2 0.5300 0.6800)
*|S (C:4 0.5300 0.6800)
C9 Mmp2:g VSS 6.85425e-17
C10 Mmn2:g VSS 4.28616e-17
C11 C:2 VSS 5.9573e-17
C12 C VSS 1.32132e-16
Rl8 C:2 Mmn2:g 29.537926 $W=0.039
Rl9 Mmp2:g C:2 144.922531 $W=0.039
Rk10 C C:4 0.003974 $W=0.48
Rk11 C:2 C:4 45.000000 $W=0.48
*
*|NET D 2.33185e-16
*|P (D X 0 0.3000 0.6650)
*|I (Mmn3:g Mmn3 g X 0 0.3975 0.4400)
*|I (Mmp3:g Mmp3 g X 0 0.3525 1.2850)
*|S (D:2 0.3300 0.6700)
*|S (D:4 0.3300 0.6700)
C13 Mmp3:g VSS 5.18387e-17
C14 Mmn3:g VSS 3.47667e-17
C15 D:2 VSS 4.7741e-17
C16 D VSS 9.88386e-17
Rl12 Mmn3:g D:2 31.734888 $W=0.039
Rl13 D:2 Mmp3:g 147.309753 $W=0.039
Rk14 D D:4 0.003974 $W=0.48
Rk15 D:2 D:4 45.000000 $W=0.48
*
*|NET A 2.64768e-16
*|P (A X 0 1.1000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.9275 0.4400)
*|I (Mmp0:g Mmp0 g X 0 0.9925 1.2850)
*|S (A:2 1.0300 0.8800)
C17 Mmp0:g VSS 4.63131e-17
C18 Mmn0:g VSS 6.75697e-17
C19 A:2 VSS 7.73407e-17
C20 A VSS 7.35447e-17
Rl16 A:2 Mmn0:g 112.260017 $W=0.039
Rl17 Mmp0:g A:2 66.540527 $W=0.039
Rk18 A A:2 45.116947 $W=0.078
*
*|NET net132 4.07302e-18
*|I (Mmn3:s Mmn3 s X 0 0.4775 0.4400)
*|I (Mmn2:d Mmn2 d X 0 0.4775 0.4400)
C21 Mmn3:s VSS 4.07302e-18
Rmw19 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET net100 7.81394e-16
*|I (Mmn3:d Mmn3 d X 0 0.3050 0.4400)
*|I (Mmn4@1:g Mmn4@1 g X 0 1.1325 0.4400)
*|I (Mmp3:d Mmp3 d X 0 0.4550 1.2850)
*|I (Mmp1:d Mmp1 d X 0 0.8775 1.2850)
*|S (net100:14 0.8700 0.6900)
*|S (net100:16 0.8700 1.1300)
C22 Mmp1:d VSS 4.62213e-17
C23 Mmp3:d VSS 8.35867e-17
C24 Mmn4@1:g VSS 3.58075e-16
C25 Mmn3:d VSS 7.71277e-17
C26 net100:16 VSS 8.0124e-17
C27 net100:14 VSS 1.36259e-16
Rk20 net100:16 net100:14 0.360056 $W=0.08
Rk21 net100:14 Mmn3:d 75.639503 $W=0.09
Rk22 net100:14 Mmn4@1:g 0.350827 $W=0.09
Rk23 net100:16 Mmp3:d 21.061991 $W=0.08
Rk24 net100:16 Mmp1:d 20.793867 $W=0.0815
*
*|NET net124 9.21374e-18
*|I (Mmn2:s Mmn2 s X 0 0.6600 0.4400)
*|I (Mmn1:d Mmn1 d X 0 0.6600 0.4400)
C28 Mmn2:s VSS 9.21374e-18
Rmw25 Mmn1:d Mmn2:s 0.001000 $W=1
*
*|NET net120 6.17703e-18
*|I (Mmn1:s Mmn1 s X 0 0.8450 0.4400)
*|I (Mmn0:d Mmn0 d X 0 0.8450 0.4400)
C29 Mmn1:s VSS 6.17703e-18
Rmw26 Mmn0:d Mmn1:s 0.001000 $W=1
*
*Instance Section
*
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0299P	PD=0.8U	PS=0.75U
+ fw=2.6e-07 sa=1.4e-07 sb=1.575e-06 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0299P	AS=0.0416P	PD=0.75U	PS=0.84U
+ fw=2.6e-07 sa=3e-07 sb=1.415e-06 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0312P	PD=0.84U	PS=0.76U
+ fw=2.6e-07 sa=5.05e-07 sb=1.21e-06 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0312P	AS=0.0416P	PD=0.76U	PS=0.84U
+ fw=2.6e-07 sa=6.7e-07 sb=1.045e-06 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmn4@1	Mmn4@1:d	Mmn4@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.04355P	AS=0.04582P	PD=0.855U	PS=0.8725U	M=4
+ fw=2.6e-07 sa=8.75e-07 sb=8.4e-07 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0546P	PD=1.1U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=1.62e-06 sca=16.3241 scb=0.0161972 scc=0.000342398
Mmp2	Mmp3:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U
+ fw=3.9e-07 sa=3.45e-07 sb=1.415e-06 sca=13.0557 scb=0.010793 scc=0.000234604
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.07215P	AS=0.0624P	PD=1.15U	PS=1.1U
+ fw=3.9e-07 sa=5.5e-07 sb=1.21e-06 sca=11.9089 scb=0.00972252 scc=0.000231915
Mmp0	Mmp1:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.07215P	AS=0.0702P	PD=1.15U	PS=1.14U
+ fw=3.9e-07 sa=7.8e-07 sb=9.8e-07 sca=11.3866 scb=0.00953811 scc=0.000231855
Mmp4@1	Mmp4@1:d	Mmn4@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=1.005e-06 sb=7.55e-07 sca=11.3866 scb=0.00953811 scc=0.000231855
.ENDS
.END
