*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:02:01 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AND2XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AND2XL B Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 1.87883e-16
*|P (B X 0 0.1100 0.8050)
*|I (Mmn1:g Mmn1 g X 0 0.2725 0.5275)
*|I (Mmp1:g Mmp1 g X 0 0.1775 1.1725)
*|S (B:2 0.1775 0.7600)
*|S (B:3 0.1200 0.7600)
*|S (B:5 0.1150 0.7600)
*|S (B:6 0.1150 0.8050)
C1 Mmp1:g VSS 3.97775e-17
C2 Mmn1:g VSS 4.67013e-17
C3 B:6 VSS 3.66036e-17
C4 B:5 VSS 2.04077e-17
C5 B:2 VSS 3.38979e-17
C6 B:3 VSS 1.04954e-17
Rl1 B:2 B:3 49.540199 $W=0.114
Rl2 Mmn1:g B:2 76.432663 $W=0.039
Rl3 B:2 Mmp1:g 99.461899 $W=0.039
Rk4 B:5 B:3 0.001154 $W=0.275
Rk5 B B:6 0.001038 $W=0.275
Rk6 B:5 B:6 0.026901 $W=0.1
*
*|NET Y 1.09922e-16
*|P (Y X 0 0.6900 0.6400)
*|I (Mmn2:d Mmn2 d X 0 0.6800 0.5275)
*|I (Mmp2:d Mmp2 d X 0 0.6800 1.1725)
C7 Mmp2:d VSS 4.3802e-17
C8 Mmn2:d VSS 1.79893e-17
C9 Y VSS 4.81311e-17
Rk7 Y Mmn2:d 75.062759 $W=0.095
Rk8 Mmp2:d Y 62.312347 $W=0.095
*
*|NET A 2.56829e-16
*|P (A X 0 0.4500 1.0250)
*|I (Mmn0:g Mmn0 g X 0 0.3825 0.5275)
*|I (Mmp0:g Mmp0 g X 0 0.3825 1.1725)
*|S (A:1 0.4400 0.9150)
*|S (A:2 0.3825 0.9150)
C10 Mmp0:g VSS 3.60618e-17
C11 Mmn0:g VSS 6.82603e-17
C12 A:2 VSS 4.16506e-17
C13 A:1 VSS 7.43706e-17
C14 A VSS 3.64857e-17
Rl9 A:1 A:2 46.233437 $W=0.114
Rl10 A:2 Mmn0:g 116.187286 $W=0.039
Rl11 A:2 Mmp0:g 52.725750 $W=0.039
Rk12 A A:1 0.053884 $W=0.128
*
*|NET net73 1.08081e-18
*|I (Mmn1:s Mmn1 s X 0 0.3275 0.5275)
*|I (Mmn0:d Mmn0 d X 0 0.3275 0.5275)
C15 Mmn1:s VSS 1.08081e-18
Rmw13 Mmn0:d Mmn1:s 0.001000 $W=1
*
*|NET net57 3.1238e-16
*|I (Mmn1:d Mmn1 d X 0 0.1800 0.5275)
*|I (Mmn2:g Mmn2 g X 0 0.5875 0.5275)
*|I (Mmp1:d Mmp1 d X 0 0.2800 1.1725)
*|I (Mmp2:g Mmp2 g X 0 0.5875 1.1725)
*|S (net57:2 0.5875 0.7350)
*|S (net57:3 0.5200 0.7350)
*|S (net57:5 0.2800 0.7350)
C16 Mmp2:g VSS 4.68742e-17
C17 Mmp1:d VSS 4.68833e-17
C18 Mmn2:g VSS 2.8702e-17
C19 Mmn1:d VSS 3.36288e-17
C20 net57:5 VSS 5.29676e-17
C21 net57:2 VSS 2.93658e-17
C22 net57:3 VSS 7.39582e-17
Rl14 net57:2 net57:3 47.480148 $W=0.114
Rl15 net57:2 Mmn2:g 46.956516 $W=0.039
Rl16 Mmp2:g net57:2 121.956520 $W=0.039
Rk17 net57:3 net57:5 0.156848 $W=0.08
Rk18 net57:5 Mmn1:d 75.187721 $W=0.09
Rk19 net57:5 Mmp1:d 62.301830 $W=0.08
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.00943P	PD=0.57U	PS=0.42U
+ fw=1.45e-07 sa=1.4e-07 sb=4.55e-07 sca=15.2405 scb=0.016218 scc=0.00104639
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.00943P	AS=0.0232P	PD=0.42U	PS=0.61U
+ fw=1.45e-07 sa=2.5e-07 sb=3.45e-07 sca=15.2405 scb=0.016218 scc=0.00104639
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=4.55e-07 sb=1.4e-07 sca=15.2405 scb=0.016218 scc=0.00104639
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0516P	PD=0.75U	PS=1.47U
+ fw=2.15e-07 sa=1e-07 sb=5.5e-07 sca=31.2881 scb=0.0351388 scc=0.00259704
Mmp0	Mmp1:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0344P	PD=0.75U	PS=0.75U
+ fw=2.15e-07 sa=3.05e-07 sb=3.45e-07 sca=20.7658 scb=0.021645 scc=0.000601202
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=5.1e-07 sb=1.4e-07 sca=27.1972 scb=0.0311782 scc=0.00169862
.ENDS
.END
