*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:04:03 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AO21X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AO21X2 B0 A1 A0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B0 2.28972e-16
*|P (B0 X 0 0.9000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.8825 0.4425)
*|I (Mmp2:g Mmp2 g X 0 0.8275 1.1725)
*|S (B0:2 0.8550 0.6950)
*|S (B0:4 0.8550 0.6950)
*|S (B0:5 0.8775 0.6950)
*|S (B0:6 0.8775 0.8550)
C1 Mmp2:g VSS 4.78804e-17
C2 Mmn2:g VSS 3.28028e-17
C3 B0:5 VSS 4.2228e-17
C4 B0:2 VSS 5.21886e-17
C5 B0 VSS 5.38724e-17
Rl1 Mmn2:g B0:2 57.692310 $W=0.039
Rl2 B0:2 Mmp2:g 129.945053 $W=0.039
Rk3 B0:2 B0:4 45.000000 $W=0.122
Rk4 B0:4 B0:5 0.003877 $W=0.37
Rk5 B0:6 B0 0.003963 $W=0.37
Rk6 B0:5 B0:6 0.081638 $W=0.122
*
*|NET A1 2.51346e-16
*|P (A1 X 0 0.5000 0.4750)
*|I (Mmn1:g Mmn1 g X 0 0.5475 0.4425)
*|I (Mmp1:g Mmp1 g X 0 0.6225 1.1725)
*|S (A1:2 0.5850 0.6150)
C6 Mmp1:g VSS 6.56769e-17
C7 Mmn1:g VSS 3.49615e-17
C8 A1:2 VSS 9.51677e-17
C9 A1 VSS 5.55397e-17
Rl7 A1:2 Mmn1:g 26.373627 $W=0.039
Rl8 Mmp1:g A1:2 161.538467 $W=0.039
Rk9 A1:2 A1 45.095474 $W=0.0605
*
*|NET A0 2.16506e-16
*|P (A0 X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.4275 0.4425)
*|I (Mmp0:g Mmp0 g X 0 0.4275 1.1725)
*|S (A0:2 0.4275 0.6500)
*|S (A0:3 0.3100 0.6500)
C10 Mmp0:g VSS 5.02753e-17
C11 Mmn0:g VSS 3.98146e-17
C12 A0:2 VSS 3.4707e-17
C13 A0:3 VSS 4.11466e-17
C14 A0 VSS 5.05625e-17
Rl10 A0:2 A0:3 53.960411 $W=0.114
Rl11 A0:2 Mmn0:g 46.956516 $W=0.039
Rl12 Mmp0:g A0:2 154.648819 $W=0.039
Rk13 A0 A0:3 0.122316 $W=0.1
*
*|NET Y 1.7875e-16
*|P (Y X 0 1.3000 0.6650)
*|I (Mmn3:d Mmn3 d X 0 1.2300 0.3850)
*|I (Mmp3:d Mmp3 d X 0 1.2950 1.2850)
C15 Mmp3:d VSS 1.0071e-16
C16 Mmn3:d VSS 2.21591e-17
C17 Y VSS 5.58808e-17
Rk14 Mmn3:d Y 75.183678 $W=0.09
Rk15 Mmp3:d Y 21.053404 $W=0.095
*
*|NET net104 3.48915e-18
*|I (Mmn0:d Mmn0 d X 0 0.4875 0.4425)
*|I (Mmn1:s Mmn1 s X 0 0.4875 0.4425)
C18 Mmn0:d VSS 3.48915e-18
Rmw16 Mmn1:s Mmn0:d 0.001000 $W=1
*
*|NET net100 4.23497e-16
*|I (Mmn1:d Mmn1 d X 0 0.7150 0.4425)
*|I (Mmn3:g Mmn3 g X 0 1.1275 0.3850)
*|I (Mmp2:d Mmp2 d X 0 0.9200 1.1725)
*|I (Mmp3:g Mmp3 g X 0 1.1925 1.2850)
*|S (net100:4 1.0700 0.6400)
C19 Mmp3:g VSS 8.81721e-17
C20 Mmp2:d VSS 7.48483e-17
C21 Mmn3:g VSS 5.79598e-17
C22 Mmn1:d VSS 5.84355e-17
C23 net100:4 VSS 1.44081e-16
Rl17 Mmn3:g net100:4 48.322868 $W=0.094
Rl18 Mmp3:g Mmn3:g 159.311798 $W=0.039
Rk19 Mmn1:d net100:4 75.292450 $W=0.08
Rk20 Mmp2:d net100:4 62.474243 $W=0.08
*
*|NET net84 7.96369e-17
*|I (Mmp0:d Mmp0 d X 0 0.3350 1.1725)
*|I (Mmp1:d Mmp1 d X 0 0.7250 1.1725)
C24 Mmp1:d VSS 4.12074e-17
C25 Mmp0:d VSS 3.84295e-17
Rk21 Mmp1:d Mmp0:d 124.238663 $W=0.1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01087P	AS=0.0203P	PD=0.44U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=1.045e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04205P	AS=0.01088P	PD=0.87U	PS=0.44U
+ fw=1.45e-07 sa=2.6e-07 sb=9.25e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn2	Mmn1:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04205P	AS=0.0451P	PD=0.87U	PS=0.92U
+ fw=1.45e-07 sa=5.95e-07 sb=5.9e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04075P	PD=0.84U	PS=0.86U	M=2
+ fw=2.6e-07 sa=5.30385e-07 sb=3.45e-07 sca=8.51051 scb=0.00656948 scc=0.000151659
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.05815P	PD=0.71U	PS=1.57U
+ fw=2.15e-07 sa=1.4e-07 sb=5.4e-07 sca=16.4235 scb=0.0160509 scc=0.000530362
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.05815P	PD=0.75U	PS=1.57U
+ fw=2.15e-07 sa=3.35e-07 sb=3.45e-07 sca=14.3559 scb=0.0130561 scc=0.000502004
Mmp2	Mmp2:d	Mmp2:g	Mmp1:d	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=5.4e-07 sb=1.4e-07 sca=13.9642 scb=0.012601 scc=0.000501242
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0492P	PD=1.1U	PS=1.06U	M=2
+ fw=3.9e-07 sa=1.12308e-07 sb=3.45e-07 sca=15.0157 scb=0.0138815 scc=0.000273597
.ENDS
.END
