*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:08:20 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AOI2BB2X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AOI2BB2X2 Y A0N B0 A1N B1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 4.12867e-16
*|P (Y X 0 1.9000 0.8550)
*|I (Mmn3@1:d Mmn3@1 d X 0 1.4650 0.4050)
*|I (Mmn5@1:s Mmn5@1 s X 0 2.3350 0.4050)
*|I (Mmp4:d Mmp4 d X 0 2.1300 1.2100)
*|S (Y:4 1.9100 0.4950)
C1 Mmp4:d VSS 1.6536e-16
C2 Mmn5@1:s VSS 5.68388e-17
C3 Mmn3@1:d VSS 4.69592e-17
C4 Y:4 VSS 7.14162e-17
C5 Y VSS 7.22931e-17
Rk1 Y:4 Y 0.224125 $W=0.09
Rk2 Y:4 Mmn3@1:d 75.311333 $W=0.09
Rk3 Y:4 Mmn5@1:s 75.320854 $W=0.09
Rk4 Mmp4:d Y 0.251242 $W=0.0865
*
*|NET A0N 2.23794e-16
*|P (A0N X 0 0.5000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 0.5325 0.5875)
*|I (Mmp0:g Mmp0 g X 0 0.5325 1.0425)
*|S (A0N:2 0.4950 0.7850)
C6 Mmp0:g VSS 3.67485e-17
C7 Mmn0:g VSS 2.92602e-17
C8 A0N:2 VSS 1.21246e-16
C9 A0N VSS 3.65399e-17
Rl5 A0N:2 Mmn0:g 33.848213 $W=0.039
Rl6 Mmp0:g A0N:2 43.463600 $W=0.039
Rk7 A0N A0N:2 45.071644 $W=0.1
*
*|NET B0 4.50738e-16
*|P (B0 X 0 2.3000 0.6650)
*|I (Mmn4@1:g Mmn4@1 g X 0 2.0275 0.4050)
*|I (Mmn4:g Mmn4 g X 0 2.5425 0.4050)
C10 Mmn4:g VSS 5.30316e-17
C11 Mmn4@1:g VSS 3.38131e-17
C12 B0 VSS 3.63893e-16
Rl8 B0 Mmn4@1:g 41.187286 $W=0.039
Rl9 B0 Mmn4:g 28.641212 $W=0.039
*
*|NET A1N 2.34143e-16
*|P (A1N X 0 0.3000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.2825 0.5875)
*|I (Mmp1:g Mmp1 g X 0 0.3375 1.0425)
*|S (A1N:2 0.3100 0.7700)
*|S (A1N:4 0.3050 0.7700)
C13 Mmp1:g VSS 3.79866e-17
C14 Mmn1:g VSS 2.80356e-17
C15 A1N:4 VSS 8.70658e-17
C16 A1N:2 VSS 3.45315e-17
C17 A1N VSS 4.65236e-17
Rl10 A1N:2 Mmn1:g 29.945055 $W=0.039
Rl11 Mmp1:g A1N:2 51.923077 $W=0.039
Rk12 A1N:4 A1N 0.050749 $W=0.1
Rk13 A1N:2 A1N:4 45.000000 $W=0.1
*
*|NET B1 3.74903e-16
*|P (B1 X 0 2.5000 0.8550)
*|I (Mmn5@1:g Mmn5@1 g X 0 2.2325 0.4050)
*|I (Mmn5:g Mmn5 g X 0 2.4375 0.4050)
*|I (Mmp5@1:g Mmp5@1 g X 0 2.2325 1.2100)
C18 Mmp5@1:g VSS 2.23498e-16
C19 Mmn5:g VSS 5.96865e-17
C20 Mmn5@1:g VSS 3.75403e-17
C21 B1 VSS 5.4178e-17
Rl14 Mmp5@1:g Mmn5@1:g 103.296707 $W=0.039
Rl15 Mmp5@1:g Mmn5:g 111.252586 $W=0.039
Rk16 Mmp5@1:g B1 45.129005 $W=0.11
*
*|NET n1 6.47373e-16
*|I (Mmn1:d Mmn1 d X 0 0.1650 0.5875)
*|I (Mmn3@1:g Mmn3@1 g X 0 1.3625 0.4050)
*|I (Mmn3:g Mmn3 g X 0 1.5675 0.4050)
*|I (Mmp1:d Mmp1 d X 0 0.2450 1.0425)
*|I (Mmp3@1:g Mmp3@1 g X 0 1.3625 1.2100)
*|S (n1:8 0.1300 0.5750)
C22 Mmp3@1:g VSS 3.45629e-16
C23 Mmp1:d VSS 5.68387e-17
C24 Mmn3:g VSS 3.10033e-17
C25 Mmn3@1:g VSS 4.57829e-17
C26 Mmn1:d VSS 1.68119e-16
Rl17 Mmp3@1:g Mmn3@1:g 29.578981 $W=0.039
Rl18 Mmp3@1:g Mmn3:g 30.002762 $W=0.039
Rk19 n1:8 Mmn1:d 75.000000 $W=0.08
Rk20 n1:8 Mmp1:d 62.436527 $W=0.09
Rk21 n1:8 Mmp3@1:g 46.269829 $W=0.08
*
*|NET n0 5.77075e-16
*|I (Mmn0:d Mmn0 d X 0 0.6425 0.5875)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.2575 0.4050)
*|I (Mmn2:g Mmn2 g X 0 1.7275 0.4050)
*|I (Mmp0:d Mmp0 d X 0 0.6925 0.9950)
*|I (Mmp2:g Mmp2 g X 0 1.1575 1.2100)
*|S (n0:8 0.6700 0.8150)
C27 Mmp2:g VSS 3.34722e-16
C28 Mmp0:d VSS 2.54179e-17
C29 Mmn2:g VSS 4.91306e-17
C30 Mmn2@1:g VSS 6.76304e-17
C31 Mmn0:d VSS 4.57641e-17
C32 n0:8 VSS 5.44095e-17
Rl22 Mmn2@1:g Mmp2:g 90.179672 $W=0.039
Rl23 Mmp2:g Mmn2:g 90.179672 $W=0.039
Rk24 n0:8 Mmn0:d 75.173882 $W=0.08
Rk25 n0:8 Mmp0:d 62.140430 $W=0.09
Rk26 n0:8 Mmp2:g 0.385456 $W=0.09
*
*|NET 11 0
*|I (Mmn2@1:d Mmn2@1 d X 0 1.3100 0.4050)
*|I (Mmn3@1:s Mmn3@1 s X 0 1.3100 0.4050)
Rmw27 Mmn3@1:s Mmn2@1:d 0.001000 $W=1
*
*|NET 12 4.23054e-18
*|I (Mmn3:s Mmn3 s X 0 1.6475 0.4050)
*|I (Mmn2:d Mmn2 d X 0 1.6475 0.4050)
C33 Mmn3:s VSS 4.23054e-18
Rmw28 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET 13 4.42702e-18
*|I (Mmn4@1:s Mmn4@1 s X 0 2.1300 0.4050)
*|I (Mmn5@1:d Mmn5@1 d X 0 2.1300 0.4050)
C34 Mmn4@1:s VSS 4.42702e-18
Rmw29 Mmn5@1:d Mmn4@1:s 0.001000 $W=1
*
*|NET 14 0
*|I (Mmn5:d Mmn5 d X 0 2.4900 0.4050)
*|I (Mmn4:s Mmn4 s X 0 2.4900 0.4050)
Rmw30 Mmn4:s Mmn5:d 0.001000 $W=1
*
*|NET n4 2.9553e-16
*|I (Mmp2:d Mmp2 d X 0 1.0850 1.2100)
*|I (Mmp3@1:d Mmp3@1 d X 0 1.4650 1.2100)
*|I (Mmp5@1:s Mmp5@1 s X 0 2.3350 1.2100)
C35 Mmp5@1:s VSS 7.42284e-17
C36 Mmp3@1:d VSS 3.59853e-17
C37 Mmp2:d VSS 1.85316e-16
Rk31 Mmp2:d Mmp3@1:d 31.059221 $W=0.08
Rk32 Mmp2:d Mmp5@1:s 62.000000 $W=0.08
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02755P	AS=0.05988P	PD=0.67U	PS=1.71U
+ fw=1.45e-07 sa=1.9e-07 sb=4.25e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02538P	AS=0.05988P	PD=0.64U	PS=1.71U
+ fw=1.45e-07 sa=4.4e-07 sb=1.75e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=1.425e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@1	Mmn3@1:d	Mmn3@1:g	Mmn3@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=1.32e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3	Mmn3@1:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0299P	PD=0.84U	PS=0.75U
+ fw=2.6e-07 sa=4.5e-07 sb=1.115e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0299P	AS=0.0663P	PD=0.75U	PS=1.03U
+ fw=2.6e-07 sa=6.1e-07 sb=9.55e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@1	VSS	Mmn4@1:g	Mmn4@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0663P	AS=0.0416P	PD=1.03U	PS=0.84U
+ fw=2.6e-07 sa=9.1e-07 sb=6.55e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@1	Mmn5@1:d	Mmn5@1:g	Mmn5@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=1.115e-06 sb=4.5e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5	Mmn5:d	Mmn5:g	Mmn5@1:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0156P	AS=0.0416P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=1.32e-06 sb=2.45e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4	VSS	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0156P	PD=0.8U	PS=0.64U
+ fw=2.6e-07 sa=1.425e-06 sb=1.4e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.05515P	PD=0.71U	PS=1.45U
+ fw=2.15e-07 sa=1.4e-07 sb=3.3686e-07 sca=35.2997 scb=0.0321645 scc=0.00387088
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0305P	AS=0.05515P	PD=0.78U	PS=1.45U
+ fw=2.15e-07 sa=3.35e-07 sb=1.4186e-07 sca=31.8032 scb=0.0262603 scc=0.00373148
Mmp4	Mmp4:d	B0	Mmp2:d	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06825P	PD=1.1U	PS=1.13U	M=2
+ fw=3.9e-07 sa=9.98718e-07 sb=7.55e-07 sca=13.5671 scb=0.012183 scc=0.000647513
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.06605P	AS=0.0624P	PD=1.13U	PS=1.1U	M=2
+ fw=3.9e-07 sa=1.28718e-07 sb=1.625e-06 sca=13.5671 scb=0.012183 scc=0.000647513
Mmp5@1	Mmp4:d	Mmp5@1:g	Mmp5@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=1.20372e-06 sb=5.5e-07 sca=14.0716 scb=0.0123579 scc=0.000647567
Mmp3@1	Mmp3@1:d	Mmp3@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=3.33718e-07 sb=1.42e-06 sca=13.5671 scb=0.012183 scc=0.000647513
.ENDS
.END
